US05679797
Alternative Preparation of (2S,3S,5S)-5-(N-(N-((N-Methyl-N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane
The product of Example 66F (9.5 g, 33.4 mmol) and phenylboronic acid (4.1 g, 33.6 mmol) were combined in toluene (150 mL) and refluxed for 2.5 hours with azeotropic water removal (Dean-Stark trap). Toluene (100 mL) was distilled out at atmospheric pressure, then the remaining toluene was removed under vacuum, to provide a yellow syrup which was dissolved in DMF (50 mL) and cooled to -60° C. A solution of 5-(p-nitrophenyloxycarbonyloxy-methyl)thiazole (9.5 g, 33.5 mmol)in DMF (50 mL) was added over 45 minutes. The resulting mixture was stirred for 8 hours at -55°±5° C., then 14 hours at -25° C., then was allowed to warm to room temperature. The reaction mixture was diluted with 1N HCl (250 mL) and washed with CH2Cl2 (2×80 mL). The combined organic layers were back-extracted with 1N HCl (60 mL). The combined aqueous HCl layers were cooled in an ice-bath to 2° C., and conc. (37%) HCL (30 mL) was added over 5 minutes. The desired product (bis HCl salt) began to precipitate within 30 minutes. The slurry was stirred 3 hours at 2°-5° C., then the product (bis HCl salt) was collected by filtration and dried in a vacuum oven at 55°-60° C. Yield 11.4 g (68%).

reactant | phenylboronic acid | 33.6 mmol, 4.1 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | water | O | H2O
reactant | 5-(p-nitrophenyloxycarbonyloxy-methyl)thiazole | 33.5 mmol, 9.5 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)OCC1=CN=CS1 | C11H8N2O5S
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | HCl | 1N, 250 mL | Cl | ClH
product | (N-Methyl-N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | CN(C(=O)OCC1=CN=CS1)C(CC(CCCC1=CC=CC=C1)O)C1=CC=CC=C1 | C24H28N2O3S
